US08183245B2
To a stirred solution of benzyl 4-oxopiperidine-1-carboxylate (300 g, 1.29 mol) and TMSCl (280 g, 2.58 mol) in DMF (1600 mL) was added triethylamine (457 g, 4.52 mol) at room temperature. After the addition, the reaction mixture was slowly heated to 85° C. and stirred overnight. TLC (EtOAc/Petroleum ether=1:10) showed that the starting material was consumed completely. The reaction mixture was poured into aqueous NaHCO3 (5% w/v) at 0° C. with vigorous stirring and extracted with petroleum ether (3 L, 1 L). The organic layer was dried over sodium sulfate and concentrated to afford benzyl 4-[(trimethylsilyl)oxy]-3,6-dihydropyridine-1(2 H)-carboxylate as a brown oil. 1H NMR (600 MHz, CDCl3-D6) 7.40-7.30 (m, 5H); 5.13 (s, 2H); 4.80 (d, 1H); 3.95 (s, 2H); 3.60 (s, 2H); 2.10 (s, 2H); 0.20 (s, 9H).

reactant | benzyl 4-oxopiperidine-1-carboxylate | 1.29 mol, 300 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | TMSCl | 2.58 mol, 280 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 4.52 mol, 457 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 1600 mL | CN(C)C=O | C3H7NO
product | benzyl 4-[(trimethylsilyl)oxy]-3,6-dihydropyridine-1(2 H)-carboxylate | C[Si](OC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)(C)C | C16H23NO3Si
